US06018020
4.0 g (5.7 mmol) of ethyl 5-[4-[[N-[3,3,3-trifluoro-1(RS)-(dimethoxymethyl)propyl]-N-[N-(3-methyl-L-valyl)-L-leucyl]-amino]methyl]-3,5-dimethoxyphenoxy]-valerate were dissolved in 40 ml of methanol. 2.4 g (17.3 mmol) of potassium carbonate and 8.0 ml of water were then added and the mixture was stirred for 2 days at room temperature. The solvent was removed by evaporation and the residue was dissolved in 20 ml of water and 20 ml of dioxan. 2.9 g (8.6 mmol) of N-[(9-fluorenyl)-methoxycarbonyloxy]-succinimide were then added and the mixture was stirred for 3 hours. The mixture was adjusted to pH 3 with 10% citric acid and then washed with three equal aliquots of dichloromethane. The combined organic layers were washed with saturated sodium chloride solution, dried over anhydrous magnesium sulphate, filtered and the filtrate was evaporated. The residue was chromatographed on silica gel using 4% tert-butyl methyl ether in dichloromethane for the elution. There were obtained 5.12 g of 5-[4-[[N-[N-[N-[(9-fluorenyl)methoxycarbonyl]-3-methyl-L-valyl]-L-leucyl]-N-[3,3,3-trifluoro-1(RS)-(dimethoxymethyl)propyl]amino]methyl]-3,5-dimethoxyphenoxy]valeric acid as a white foam; MS: m/e 870.8 [M+H-MeOH], 888.7 [M+H-CH3 ], 889.7 [M-CH3 ]902.7 [M+H], 924.7 [M+Na].

reactant | ethyl 5-[4-[[N-[3,3,3-trifluoro-1(RS)-(dimethoxymethyl)propyl]-N-[N-(3-methyl-L-valyl)-L-leucyl]-amino]methyl]-3,5-dimethoxyphenoxy]-valerate | 5.7 mmol, 4.0 g | FC(CC(C(OC)OC)N(C([C@@H](NC([C@@H](N)C(C)(C)C)=O)CC(C)C)=O)CC1=C(C=C(OCCCCC(=O)OCC)C=C1OC)OC)(F)F | C34H56F3N3O9
reactant | potassium carbonate | 17.3 mmol, 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-[(9-fluorenyl)-methoxycarbonyloxy]-succinimide | 8.6 mmol, 2.9 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)ON1C(CCC1=O)=O | C19H15NO5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 40 ml | CO | CH4O
solvent | water | 8.0 ml | O | H2O
product | 5-[4-[[N-[N-[N-[(9-fluorenyl)methoxycarbonyl]-3-methyl-L-valyl]-L-leucyl]-N-[3,3,3-trifluoro-1(RS)-(dimethoxymethyl)propyl]amino]methyl]-3,5-dimethoxyphenoxy]valeric acid | 5.12 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N(C(CC(F)(F)F)C(OC)OC)CC1=C(C=C(OCCCCC(=O)O)C=C1OC)OC | C47H62F3N3O11
